US05288896
2,6-Bis(1,1-dimethylethyl)-4-[(methoxyamino)phenylmethyl]phenol, monohydrochloride
Over a 20 minute period a solution of 3,5-bis(1,1-dimethylethyl)-4-hydroxy-α-phenylbenzyl bromide, Example 17, (6.23 g, 0.0166 mole) in 100 mL THF is added to a mixture of methoxylamine hydrochloride (4.18 g, 0.05 mole) and 5.62 g (0.0524 mole) of 2,6 lutidine in 175 mL THF. The reaction mixture is heated under reflux for 16 hours. An additional 5.62 g (0.0524 mole) of 2,6 lutidine and 2.0 g (0.0239 mole) of methoxylamine hydrochloride is added and reflux is continued for 24 hours. The mixture is evaporated to dryness and the residue is taken up in Et2O, washed with H2O, 1N HCl, saturated NaHCO3 and brine. After evaporation to dryness the residue is treated with 5 mL of 20% ethereal HCl (w/v). Creamy white crystals form and are filtered off and recrystallized from EtOAc-Et2O to give an off-white solid, 3.6 g (57 %), m.p. 183°-185° C.

reactant | 3,5-bis(1,1-dimethylethyl)-4-hydroxy-α-phenylbenzyl bromide | CC(C)(C)C=1C=C(C(C2=CC=CC=C2)Br)C=C(C1O)C(C)(C)C | C21H27BrO
reactant | methoxylamine hydrochloride | 0.05 mole, 4.18 g | Cl.O(C)N
reactant | 2,6 lutidine | 0.0524 mole, 5.62 g | N1=C(C=CC=C1C)C | C7H9N
reactant | 2,6 lutidine | 0.0524 mole, 5.62 g | N1=C(C=CC=C1C)C | C7H9N
reactant | methoxylamine hydrochloride | 0.0239 mole, 2.0 g | Cl.O(C)N
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 175 mL | C1CCOC1 | C4H8O
product | 2,6-Bis(1,1-dimethylethyl)-4-[(methoxyamino)phenylmethyl]phenol, monohydrochloride | Cl.CC(C)(C)C1=C(C(=CC(=C1)C(C1=CC=CC=C1)NOC)C(C)(C)C)O | InChI=1S/C22H31NO2.ClH/c1-21(2,3)17-13-16(14-18(20(17)24)22(4,5)6)19(23-25-7)15-11-9-8-10-12-15;/h8-14,19,23-24H,1-7H3;1H
